US06166028
Butyl-(2-chloro-4-nitro-phenyl)thioether
A solution of 3-chloro-4-fluoro-nitrobenzene (5.0 g) and sodium sulfide (2.5 g) in N,N-dimethylformamide (30 mL) is stirred at room temperature for 1 hour and then treated with 1-iodobutane (12.6 g). The solvent is then removed under reduced pressure and the resulting residue is treated with ethyl acetate and hexanes to precipitate the inorganic salts. The solids are removed by filtration and the filtrate is reduced under reduced pressure. The resulting residue is then passed through hydrous magnesium silicate using dichloromethane as the eluent to provide the desired compound as a yellow solid.

reactant | 3-chloro-4-fluoro-nitrobenzene | 5.0 g | ClC=1C=C(C=CC1F)[N+](=O)[O-] | C6H3ClFNO2
reactant | sodium sulfide | 2.5 g | [S-2].[Na+].[Na+]
reactant | 1-iodobutane | 12.6 g | ICCCC | C4H9I
solvent | N,N-dimethylformamide | 30 mL | CN(C=O)C | C3H7NO
product | Butyl-(2-chloro-4-nitro-phenyl)thioether | C(CCC)SC1=C(C=C(C=C1)[N+](=O)[O-])Cl | C10H12ClNO2S
